US06099593
50 g of 4-nitro-2H-pyrazol-3-ylamine hydrochloride (prepared according to H. Dorn and H. Dilcher, Liebigs Ann. Chem., 707, 141, 1967) and 60 g of ethyl acetoacetate in 160 cc of acetic acid were introduced into a 500 cc three-necked round-bottomed flask equipped with a magnetic stirrer, a thermometer and a condenser. The reaction medium was refluxed for 12 h. The precipitate formed was filtered off at about 90° C. It was rinsed with diisopropyl ether and dried under vacuum over phosphorus pentoxide. 50 g of 3-nitro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol were obtained in the form of yellow crystals. (Yield=84.5%; melting point=290° C. with decomposition).

reactant | 4-nitro-2H-pyrazol-3-ylamine hydrochloride | 50 g | Cl.[N+](=O)([O-])C1=C(NN=C1)N
reactant | ethyl acetoacetate | 60 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 160 cc | C(C)(=O)O | C2H4O2
product | 3-nitro-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 50 g, Yield=84.5% | [N+](=O)([O-])C=1C=NN2C1N=C(C=C2O)C | C7H6N4O3
